* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADM7154-3.0.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 3.9
C1 OUT 0 10µ
C2 N003 0 1µ
C3 N004 0 1µ
C4 N002 0 1µ
R1 IN N001 100K
Rload OUT 0 30
X§U1 N004 OUT N002 0 N003 N003 N001 IN ADM7154_5 Vreg=3.6022 Vref=3.0158
.tran 5m startup
.lib ADM7154_5.sub
.backanno
.end
